US04766133
31.4 g of 2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole are dissolved in 1.3 l of methylene chloride and 50 ml of methanol and then cooled to -20°. 16.9 g of m-chloroperbenzoic acid, recrystallized from a methyene chloride/petroleum ether, are then introduced within 10 minutes. The solution is stirred further at -20° for 60 minutes and then poured into a mixture of 120 ml of 2N sodium carbonate solution and ice. The organic phase is washed neutral with water, dried over sodium sulphate and evaporated in vacuo. Crystallization from methylene chloride/methanol/petroleum ether gives 2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulphinyl]-5-(trifluoromethyl)benzimidazole of melting point 152°-154°.

reactant | 2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole | 31.4 g | COC1=C(C(=NC=C1C)CSC=1NC2=C(N1)C=CC(=C2)C(F)(F)F)C | C17H16F3N3OS
reactant | methanol | 50 ml | CO | CH4O
solvent | methylene chloride | 1.3 l | C(Cl)Cl | CH2Cl2
product | 2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulphinyl]-5-(trifluoromethyl)benzimidazole | COC1=C(C(=NC=C1C)CS(=O)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)C | C17H16F3N3O2S
